* File: NOR2.pex.sp.pex
* Created: Mon Dec  2 13:09:21 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2%VSS 1 6 9 13 18 27 28
c30 1 0 1.04651e-19
r31 16 23 0.0175382
r32 16 18 0.210537
r33 13 28 10
r34 11 23 0.0306086
r35 11 13 1.45436
r36 10 21 0.0175382
r37 9 23 0.0175382
r38 9 10 0.847562
r39 6 27 10
r40 4 21 0.0306086
r41 4 6 1.45436
r42 1 21 15
.ends

.subckt PM_NOR2%OUT 3 6 7 12 18 19 21 23 26 28 29
c40 29 0 1.04651e-19
c41 26 0 6.25246e-20
r42 23 26 1.7
r43 20 26 0.0426401
r44 20 21 0.117519
r45 18 26 0.0426401
r46 18 19 0.117519
r47 15 28 30
r48 12 15 0.781098
r49 12 21 1.17068
r50 12 28 10
r51 8 19 0.549877
r52 6 8 0.0481403
r53 6 7 0.678117
r54 3 29 10
r55 1 7 0.0479332
r56 1 3 0.952085
.ends

.subckt PM_NOR2%VDD 1 6 14 21
r23 12 17 0.0175382
r24 12 14 1.13595
r25 10 21 30
r26 6 10 0.781098
r27 6 21 10
r28 4 17 0.0306086
r29 4 10 1.23091
r30 1 17 30
.ends

.subckt PM_NOR2%A 6 9 10 12 14 16 18 21 24
r35 21 24 25
r36 18 21 1.7
r37 11 24 3.12343
r38 11 12 6.43312
r39 9 24 3.12343
r40 9 10 6.43312
r41 6 16 92.2314
r42 6 12 57.5934
r43 3 14 87.1074
r44 3 10 76.4496
.ends

.subckt PM_NOR2%B 6 9 10 12 14 16 18 21 24
c48 21 0 6.25246e-20
r49 21 24 25
r50 18 21 1.7
r51 11 24 3.06135
r52 11 12 6.47011
r53 9 24 3.06135
r54 9 10 6.47011
r55 6 16 92.2314
r56 6 12 57.5934
r57 3 14 87.1074
r58 3 10 76.4496
.ends

