* File: NOR3.pex.sp.pex
* Created: Mon Dec  2 10:44:19 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR3%OUT 3 6 7 10 13 19 25 26 27 29 31 34 36 37 38
c60 38 0 1.05529e-19
c61 34 0 0.0116323f
c62 29 0 0.00643526f
c63 26 0 0.00636871f
c64 13 0 1.17743e-19
r65 31 34 1.7
r66 28 34 0.125325
r67 28 29 0.0775449
r68 26 34 0.127268
r69 26 27 0.0775449
r70 22 36 30
r71 19 22 0.781098
r72 19 29 1.17068
r73 19 36 10
r74 15 27 0.545991
r75 14 25 0.0363272
r76 13 15 0.0479332
r77 13 14 0.57708
r78 10 38 10
r79 8 25 0.00944082
r80 8 10 0.955971
r81 6 25 0.0363272
r82 6 7 1.17015
r83 3 37 10
r84 1 7 0.0479332
r85 1 3 0.952085
.ends

.subckt PM_NOR3%VSS 1 6 9 13 18 21 27 29
c49 1 0 1.05529e-19
r50 16 23 0.0175382
r51 16 18 0.297865
r52 13 29 10
r53 11 23 0.0306086
r54 11 13 1.45047
r55 10 21 0.0175382
r56 9 23 0.0175382
r57 9 10 0.766326
r58 6 27 10
r59 4 21 0.0306086
r60 4 6 1.45436
r61 1 21 15
.ends

.subckt PM_NOR3%VDD 1 6 14 21
r29 12 17 0.0175382
r30 12 14 1.40268
r31 10 21 30
r32 6 10 0.781098
r33 6 21 10
r34 4 17 0.0306086
r35 4 10 1.23091
r36 1 17 30
.ends

.subckt PM_NOR3%A 6 9 10 12 14 16 18 21 24
r40 21 24 25
r41 18 21 1.7
r42 11 24 3.12343
r43 11 12 6.43312
r44 9 24 3.12343
r45 9 10 6.43312
r46 6 16 92.2314
r47 6 12 57.5934
r48 3 14 87.1074
r49 3 10 76.4496
.ends

.subckt PM_NOR3%B 6 9 10 12 14 16 18 21 24
r52 21 24 25
r53 18 21 1.7
r54 11 24 3.03042
r55 11 12 6.47011
r56 9 24 3.09227
r57 9 10 6.47011
r58 6 16 92.2314
r59 6 12 58.0033
r60 3 14 87.1074
r61 3 10 76.0397
.ends

.subckt PM_NOR3%C 6 9 10 12 14 16 18 21 24
c48 24 0 0.0055622f
c49 21 0 0.00225093f
c50 12 0 0.0027624f
c51 9 0 0.0027624f
r52 21 24 25
r53 18 21 1.7
r54 11 24 3.03042
r55 11 12 6.47011
r56 9 24 3.09227
r57 9 10 6.47011
r58 6 16 92.2314
r59 6 12 58.0033
r60 3 14 87.1074
r61 3 10 76.0397
.ends

