* File: OAI12.pex.sp.pex
* Created: Mon Dec  2 11:00:25 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI12%OUT 3 6 7 12 18 19 21 23 26 28 30
c49 28 0 1.20129e-19
c50 26 0 1.92727e-19
r51 23 26 1.7
r52 20 26 0.126297
r53 20 21 0.068006
r54 18 26 0.126297
r55 18 19 0.068006
r56 15 28 30
r57 12 15 0.781098
r58 12 21 1.17068
r59 12 28 10
r60 8 19 0.549877
r61 6 8 0.050844
r62 6 7 0.548906
r63 3 30 10
r64 1 7 0.0479332
r65 1 3 0.952085
.ends

.subckt PM_OAI12%NET23 3 6 7 10 13 15
c35 13 0 1.578e-19
r36 10 15 10
r37 8 10 0.952085
r38 6 8 0.0479332
r39 6 7 1.15135
r40 3 13 10
r41 1 7 0.0479332
r42 1 3 0.952085
.ends

.subckt PM_OAI12%VSS 1 6 11 14 19
c48 1 0 1.578e-19
r49 9 14 0.0175382
r50 9 11 0.562559
r51 6 19 10
r52 4 14 0.0306086
r53 4 6 1.45436
r54 1 14 30
.ends

.subckt PM_OAI12%VDD 1 6 12 16 24 31 32
c32 1 0 1.20129e-19
r33 22 28 0.0175382
r34 22 24 0.0755164
r35 20 32 30
r36 16 20 0.781098
r37 16 32 10
r38 14 28 0.0306086
r39 14 20 1.23091
r40 13 26 0.0175382
r41 12 28 0.0175382
r42 12 13 1.20906
r43 10 31 30
r44 6 10 0.781098
r45 6 31 10
r46 4 26 0.0306086
r47 4 10 1.23091
r48 1 26 30
.ends

.subckt PM_OAI12%A 6 9 10 12 14 16 19 21 24
r38 19 24 25
r39 19 21 1.7
r40 11 24 3.06135
r41 11 12 6.47011
r42 9 24 3.06135
r43 9 10 6.47011
r44 6 16 92.2314
r45 6 12 57.5934
r46 3 14 87.1074
r47 3 10 76.4496
.ends

.subckt PM_OAI12%C 6 9 10 12 14 16 18 21 24
c49 21 0 1.04856e-19
c50 18 0 8.78708e-20
r51 21 24 25
r52 18 21 1.7
r53 11 24 3.06135
r54 11 12 6.47011
r55 9 24 3.06135
r56 9 10 6.47011
r57 6 16 92.2314
r58 6 12 57.5934
r59 3 14 87.1074
r60 3 10 76.4496
.ends

.subckt PM_OAI12%B 6 9 10 12 14 16 18 21 24
r39 21 24 25
r40 18 21 1.7
r41 11 24 3.06135
r42 11 12 6.47011
r43 9 24 3.06135
r44 9 10 6.47011
r45 6 16 92.2314
r46 6 12 57.5934
r47 3 14 87.1074
r48 3 10 76.4496
.ends

