* File: OAI22.pex.sp.pex
* Created: Mon Dec  2 11:18:51 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI22%NET22 3 9 10 14 19 20 23 29 30 32
r47 27 32 30
r48 23 27 0.781098
r49 23 32 10
r50 21 27 0.331287
r51 19 21 0.0479332
r52 19 20 1.14759
r53 17 30 30
r54 14 17 0.781098
r55 14 30 10
r56 12 20 0.0479332
r57 12 17 0.42941
r58 11 14 0.61594
r59 9 11 0.0479332
r60 9 10 1.62242
r61 6 29 30
r62 3 6 0.781098
r63 3 29 10
r64 1 10 0.0479332
r65 1 3 0.61594
.ends

.subckt PM_OAI22%OUT 3 6 7 12 18 19 21 23 26 28 30
c53 30 0 1.04651e-19
c54 28 0 1.20129e-19
c55 26 0 2.97582e-19
r56 23 26 1.7
r57 20 26 0.126297
r58 20 21 0.0775449
r59 18 26 0.126297
r60 18 19 0.0775449
r61 15 28 30
r62 12 15 0.781098
r63 12 21 1.17068
r64 12 28 10
r65 8 19 0.549877
r66 6 8 0.0479332
r67 6 7 0.565422
r68 3 30 10
r69 1 7 0.0479332
r70 1 3 0.952085
.ends

.subckt PM_OAI22%VSS 1 6 11 14 19
c57 1 0 1.04651e-19
r58 9 14 0.0175382
r59 9 11 0.556467
r60 6 19 10
r61 4 14 0.0306086
r62 4 6 1.45436
r63 1 14 30
.ends

.subckt PM_OAI22%VDD 1 6 12 16 24 31 32
c39 1 0 1.20129e-19
r40 22 28 0.0175382
r41 22 24 0.0746773
r42 20 32 30
r43 16 20 0.781098
r44 16 32 10
r45 14 28 0.0306086
r46 14 20 1.23091
r47 13 26 0.0175382
r48 12 28 0.0175382
r49 12 13 1.55905
r50 10 31 30
r51 6 10 0.781098
r52 6 31 10
r53 4 26 0.0306086
r54 4 10 1.23091
r55 1 26 15
.ends

.subckt PM_OAI22%A 6 9 10 12 14 16 19 21 24
r36 19 24 25
r37 19 21 1.7
r38 11 24 3.06135
r39 11 12 6.47011
r40 9 24 3.06135
r41 9 10 6.47011
r42 6 16 92.2314
r43 6 12 57.5934
r44 3 14 87.1074
r45 3 10 76.4496
.ends

.subckt PM_OAI22%B 6 9 10 12 14 16 19 21 24
c51 19 0 1.04856e-19
r52 19 24 25
r53 19 21 1.7
r54 11 24 3.06135
r55 11 12 6.47011
r56 9 24 3.06135
r57 9 10 6.47011
r58 6 16 92.2314
r59 6 12 57.5934
r60 3 14 87.1074
r61 3 10 76.4496
.ends

.subckt PM_OAI22%D 6 9 10 12 14 16 18 21 24
c49 21 0 1.04856e-19
c50 18 0 8.78708e-20
r51 21 24 25
r52 18 21 1.7
r53 11 24 3.06135
r54 11 12 6.47011
r55 9 24 3.06135
r56 9 10 6.47011
r57 6 16 92.2314
r58 6 12 57.5934
r59 3 14 87.1074
r60 3 10 76.4496
.ends

.subckt PM_OAI22%C 6 9 10 12 14 16 18 21 24
r38 21 24 25
r39 18 21 1.7
r40 11 24 3.06135
r41 11 12 6.47011
r42 9 24 3.06135
r43 9 10 6.47011
r44 6 16 92.2314
r45 6 12 57.5934
r46 3 14 87.1074
r47 3 10 76.4496
.ends

