* File: XOR2.pex.sp.pex
* Created: Mon Dec  2 11:45:25 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR2%VSS 1 6 9 13 16 20 25 35 36 38
c66 1 0 2.09303e-19
r67 23 31 0.0175382
r68 23 25 0.20986
r69 20 38 10
r70 18 31 0.0306086
r71 18 20 1.45436
r72 17 29 0.0175382
r73 16 31 0.0175382
r74 16 17 1.19891
r75 13 36 10
r76 11 29 0.0306086
r77 11 13 1.45436
r78 10 27 0.0175382
r79 9 29 0.0175382
r80 9 10 0.649211
r81 6 35 10
r82 4 27 0.0306086
r83 4 6 1.45436
r84 1 29 10
.ends

.subckt PM_XOR2%Z 4 7 10 12 14 17 23 24 27 30 32 35 38 40 41 44
c95 41 0 1.04651e-19
r96 38 44 25
r97 35 38 1.7
r98 33 38 0.74418
r99 31 32 0.0363272
r100 30 33 0.0509397
r101 30 31 0.657737
r102 27 41 10
r103 25 32 0.00944082
r104 25 27 0.952085
r105 23 32 0.0363272
r106 23 24 0.451754
r107 20 40 30
r108 17 20 0.781098
r109 17 40 10
r110 15 24 0.0479332
r111 15 17 2.10916
r112 9 44 3.06135
r113 9 10 6.47011
r114 8 44 23.3466
r115 7 12 87.1074
r116 7 8 8.70735
r117 4 14 92.2314
r118 4 10 57.5934
.ends

.subckt PM_XOR2%OUT 3 6 7 11 13 20 22
c44 22 0 1.04651e-19
r45 19 20 10
r46 17 19 0.781098
r47 17 20 30
r48 11 19 1.36498
r49 11 13 1.7
r50 8 11 0.74418
r51 6 8 0.0509397
r52 6 7 0.552792
r53 3 22 10
r54 1 7 0.0479332
r55 1 3 0.952085
.ends

.subckt PM_XOR2%VDD 1 6 14 17 21
c49 6 0 1.13094e-19
r50 12 17 0.0175382
r51 12 14 1.40268
r52 10 21 30
r53 6 10 0.781098
r54 6 21 10
r55 4 17 0.0306086
r56 4 10 1.23091
r57 1 17 30
.ends

.subckt PM_XOR2%NET15 3 9 10 13 19 21
r23 17 21 30
r24 13 17 0.781098
r25 13 21 10
r26 11 17 0.430381
r27 9 11 0.0479332
r28 9 10 1.58984
r29 7 19 30
r30 3 7 0.781098
r31 3 19 10
r32 1 10 0.0479332
r33 1 7 0.430381
.ends

.subckt PM_XOR2%B 2 6 9 10 12 14 17 18 20 22 24 26 28 31 33 36
c70 24 0 1.13094e-19
r71 31 36 25
r72 31 33 1.7
r73 19 36 3.06135
r74 19 20 6.47011
r75 17 36 3.06135
r76 17 18 6.47011
r77 14 28 92.2314
r78 13 26 87.1074
r79 13 14 175.035
r80 12 26 87.1074
r81 11 12 26.8496
r82 9 11 3.46412
r83 9 10 233.448
r84 6 24 92.2314
r85 6 20 57.5934
r86 3 22 87.1074
r87 3 18 76.4496
r88 2 22 87.1074
r89 1 10 3.46412
r90 1 2 26.8496
.ends

.subckt PM_XOR2%A 4 6 7 8 14 16 17 18 20 22 24 26 28 30 33 36
r87 33 36 25
r88 30 33 1.7
r89 19 36 3.06135
r90 19 20 6.47011
r91 17 36 3.06135
r92 17 18 6.47011
r93 15 28 92.2314
r94 15 16 26.8496
r95 14 28 92.2314
r96 14 20 57.5934
r97 11 26 87.1074
r98 11 18 76.4496
r99 7 16 3.46412
r100 7 8 98.4826
r101 6 8 3.46412
r102 5 24 92.2314
r103 5 6 26.8496
r104 4 24 92.2314
r105 3 22 87.1074
r106 3 4 175.035
.ends

