* File: Flip_Flop.pex.sp.pex
* Created: Thu Nov 21 04:39:38 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FLIP_FLOP%VSS 1 6 9 16 19 26 29 36 39 46 53 56 63 66 73 80 87 105
+ 106 107 108 110 111 112 114 115
c221 39 0 1.81899e-19
c222 1 0 1.40935e-19
r223 83 97 0.0284785
r224 83 87 0.375976
r225 80 115 10
r226 78 97 0.0167847
r227 78 80 1.85365
r228 77 96 0.0284785
r229 76 97 0.0284785
r230 76 77 0.55182
r231 73 114 10
r232 71 96 0.0167847
r233 71 73 1.85365
r234 67 95 0.0284785
r235 67 69 0.681032
r236 66 96 0.0284785
r237 66 69 0.0971515
r238 63 112 10
r239 61 95 0.0167847
r240 61 63 1.85365
r241 57 94 0.0284785
r242 57 59 0.939173
r243 56 95 0.0284785
r244 56 59 1.15111
r245 53 111 10
r246 51 94 0.0167847
r247 51 53 1.85365
r248 50 93 0.0284785
r249 49 94 0.0284785
r250 49 50 1.03661
r251 46 110 10
r252 44 93 0.0167847
r253 44 46 2.2828
r254 40 92 0.0284785
r255 40 42 0.365696
r256 39 93 0.0284785
r257 39 42 0.959951
r258 36 108 10
r259 34 92 0.0167847
r260 34 36 2.2828
r261 30 91 0.0284785
r262 30 32 0.685889
r263 29 92 0.0284785
r264 29 32 1.20565
r265 26 107 10
r266 24 91 0.0167847
r267 24 26 1.85365
r268 20 90 0.0279798
r269 20 22 0.22442
r270 19 91 0.0284785
r271 19 22 0.822873
r272 16 106 10
r273 14 90 0.0173128
r274 14 16 1.85365
r275 10 89 0.0279798
r276 10 12 0.0942369
r277 9 90 0.0279798
r278 9 12 0.73738
r279 6 105 10
r280 4 89 0.0173128
r281 4 6 1.85365
r282 1 87 30
r283 1 69 30
r284 1 59 10
r285 1 42 15
r286 1 32 10
r287 1 22 30
r288 1 12 30
.ends

.subckt PM_FLIP_FLOP%NET011 6 18 19 20 22 26 28 29 31 32 34 36 38 41 46 52 54 55
+ 56 57 59 60 63 64 67 68 69 71 72 73 75 76 77 80 81 83 86 87 88 89 95 96 98 107
+ 110 111 113 120 125
c260 120 0 1.32469e-19
c261 88 0 1.42361e-19
c262 83 0 9.05947e-20
c263 32 0 1.1257e-19
c264 29 0 1.33094e-19
r265 107 125 0.0435229
r266 107 117 25
r267 102 103 1.7
r268 98 102 3.11851
r269 98 99 1.7
r270 95 99 1.14044
r271 92 93 25
r272 89 103 0.236078
r273 88 92 0.0608094
r274 88 89 0.000846279
r275 87 103 0.695605
r276 86 114 8.02482
r277 86 113 7.86074
r278 85 86 25
r279 81 121 8.04826
r280 81 120 7.8373
r281 80 81 25
r282 78 80 0.0961895
r283 76 78 0.0483595
r284 76 77 1.30377
r285 75 77 0.0479332
r286 74 75 0.32902
r287 72 74 0.0479332
r288 72 73 0.712323
r289 71 73 0.0479332
r290 70 71 2.70754
r291 68 70 0.0485994
r292 68 69 0.908126
r293 66 69 0.0485994
r294 66 67 2.67404
r295 65 96 0.0363272
r296 64 67 0.0479332
r297 64 65 0.622148
r298 63 96 0.00944082
r299 62 95 0.0505895
r300 62 63 2.47935
r301 61 125 0.0391937
r302 60 96 0.0363272
r303 60 61 0.168072
r304 58 87 0.0490646
r305 58 59 2.22768
r306 56 59 0.0479332
r307 56 57 0.460498
r308 55 57 0.0483595
r309 54 85 0.0268573
r310 54 55 3.48435
r311 53 83 0.00195962
r312 52 85 0.0223572
r313 52 53 0.611974
r314 49 110 30
r315 46 49 0.821902
r316 46 110 10
r317 44 83 0.0462036
r318 44 46 1.7093
r319 41 111 10
r320 39 83 0.0462036
r321 39 41 1.85192
r322 32 117 9.91231
r323 32 34 87.1074
r324 29 93 10.8245
r325 29 31 92.2314
r326 22 38 92.2314
r327 21 22 57.1835
r328 19 21 3.46412
r329 19 20 30.7438
r330 18 20 3.46412
r331 18 121 53.9041
r332 15 36 87.1074
r333 15 120 26.5421
r334 6 28 92.2314
r335 6 114 62.205
r336 3 26 87.1074
r337 3 113 81.7785
.ends

.subckt PM_FLIP_FLOP%NET07 6 7 8 10 18 22 24 25 27 28 30 32 35 40 48 49 51 54 55
+ 56 58 59 60 61 62 63 64 65 72 76 81 83 84 86 87 90
c227 87 0 9.35022e-20
c228 83 0 8.50133e-20
c229 49 0 1.1257e-19
c230 40 0 1.42361e-19
c231 25 0 1.33094e-19
r232 86 87 25
r233 80 81 1.7
r234 76 80 0.792942
r235 76 87 1.7
r236 72 103 0.007162
r237 72 93 25
r238 69 81 1.72107
r239 67 68 25
r240 63 69 0.053897
r241 63 64 0.528504
r242 62 64 0.0499887
r243 61 67 0.0254908
r244 61 62 2.26033
r245 59 67 0.0225274
r246 59 60 0.726013
r247 57 60 0.0512115
r248 57 58 3.12749
r249 55 58 0.0484983
r250 55 56 1.68184
r251 54 56 0.0484983
r252 53 54 2.90386
r253 52 103 0.0160713
r254 51 53 0.0523213
r255 51 52 0.906566
r256 49 91 8.04826
r257 49 90 7.8373
r258 48 49 25
r259 46 65 0.0040833
r260 46 48 1.2552
r261 43 83 30
r262 40 43 1.01219
r263 40 83 10
r264 38 65 0.0432789
r265 38 40 2.51611
r266 35 84 10
r267 33 65 0.0432789
r268 33 35 0.790813
r269 28 68 11.3114
r270 28 30 92.2314
r271 25 93 10.7258
r272 25 27 92.2314
r273 21 86 4.34618
r274 21 22 1.62817
r275 18 22 7.57857
r276 17 32 87.1074
r277 17 18 20.7008
r278 10 93 7.67832
r279 9 10 15.3719
r280 7 9 3.46412
r281 7 8 30.7438
r282 6 8 3.46412
r283 6 91 53.9041
r284 3 24 87.1074
r285 3 90 26.5421
.ends

.subckt PM_FLIP_FLOP%NET020 6 10 12 15 20 26 28 31 32 33 35 38
c96 33 0 8.50133e-20
c97 10 0 1.81899e-19
r98 31 39 8.02482
r99 31 38 7.86074
r100 30 31 25
r101 28 30 0.0145406
r102 27 32 0.0118693
r103 26 28 0.0490716
r104 26 27 1.58984
r105 23 33 30
r106 20 23 0.821902
r107 20 33 10
r108 18 32 0.033533
r109 18 20 2.77325
r110 15 35 10
r111 13 32 0.033533
r112 13 15 1.74573
r113 6 12 92.2314
r114 6 39 79.2165
r115 3 10 87.1074
r116 3 38 64.7669
.ends

.subckt PM_FLIP_FLOP%NET027 6 14 18 20 22 24 27 28 30 31 33 36 39 40 42 45 53 54
+ 59 60 61 64 67
r145 54 68 8.02415
r146 54 67 7.85945
r147 53 54 25
r148 51 59 0.0065123
r149 51 53 0.867514
r150 48 60 30
r151 45 48 0.821902
r152 45 60 10
r153 43 59 0.0600852
r154 43 45 1.48933
r155 42 59 0.0600852
r156 41 42 0.358489
r157 40 58 0.0485757
r158 39 41 0.0479332
r159 39 40 0.726238
r160 36 61 10
r161 34 58 0.00546457
r162 34 36 0.821902
r163 32 58 0.0971515
r164 32 33 0.885559
r165 30 33 0.0481061
r166 30 31 1.10691
r167 28 65 8.04768
r168 28 64 7.83592
r169 27 28 25
r170 25 31 0.0490716
r171 25 27 0.0874363
r172 14 24 92.2314
r173 14 68 62.205
r174 11 22 87.1074
r175 11 67 81.7785
r176 6 20 92.2314
r177 6 65 55.1339
r178 3 18 87.1074
r179 3 64 88.8496
.ends

.subckt PM_FLIP_FLOP%NET042 6 14 18 20 22 24 27 32 38 40 41 42 43 45 46 47 49 50
+ 51 54 55 57 60 61 63 66 69
c165 61 0 8.50133e-20
c166 27 0 1.90693e-19
r167 60 67 9.12652
r168 60 66 6.75904
r169 59 60 25
r170 55 70 8.02482
r171 55 69 7.86074
r172 54 55 25
r173 52 54 0.484264
r174 50 52 0.0483595
r175 50 51 0.273967
r176 48 51 0.0479332
r177 48 49 2.25391
r178 46 49 0.0479332
r179 46 47 0.68006
r180 45 47 0.0479332
r181 44 45 2.25391
r182 42 44 0.0479332
r183 42 43 0.245793
r184 41 43 0.0483595
r185 40 59 0.0229177
r186 40 41 0.330315
r187 39 57 0.00969808
r188 38 59 0.0255519
r189 38 39 1.45604
r190 35 61 30
r191 32 35 1.01679
r192 32 61 10
r193 30 57 0.0360213
r194 30 32 1.83526
r195 27 63 10
r196 25 57 0.0360213
r197 25 27 2.16838
r198 14 24 92.2314
r199 14 70 62.205
r200 11 22 87.1074
r201 11 69 81.7785
r202 6 20 92.2314
r203 6 67 52.8793
r204 3 18 87.1074
r205 3 66 91.1041
.ends

.subckt PM_FLIP_FLOP%NET077 6 10 12 13 14 16 19 22 23 24 25 27 32 41 42 43 44 45
+ 46 49
c117 45 0 8.50133e-20
c118 23 0 1.40935e-19
c119 16 0 1.90693e-19
r120 42 43 0.201111
r121 41 50 8.04768
r122 41 49 7.83592
r123 40 41 25
r124 35 45 30
r125 32 35 0.821902
r126 32 44 1.33583
r127 32 45 10
r128 28 43 0.539191
r129 27 44 0.0935978
r130 26 42 0.0455564
r131 26 27 0.0820015
r132 24 28 0.0479332
r133 24 25 0.753243
r134 22 42 0.0239119
r135 22 23 0.52777
r136 19 46 10
r137 17 25 0.0479332
r138 17 19 0.578051
r139 16 23 0.0479332
r140 15 16 0.22852
r141 14 40 0.00363516
r142 13 15 0.0479332
r143 13 14 0.717863
r144 6 12 92.2314
r145 6 50 88.2347
r146 3 10 87.1074
r147 3 49 55.7488
.ends

.subckt PM_FLIP_FLOP%Q 3 8 14 17 20 22 24 25
r38 20 22 1.7
r39 16 20 0.0742401
r40 16 17 0.103479
r41 14 20 0.0524048
r42 14 15 0.103479
r43 11 24 30
r44 8 11 0.821902
r45 8 17 1.38829
r46 8 24 10
r47 3 15 1.21439
r48 3 25 10
.ends

.subckt PM_FLIP_FLOP%VDD 1 6 12 16 22 29 35 42 48 55 61 68 74 81 89 92 108 109
+ 110 111 113 114 116
c186 1 0 3.40053e-19
r187 89 92 0.0758005
r188 87 101 0.0262372
r189 87 89 0.111644
r190 85 116 30
r191 81 85 0.821902
r192 81 116 10
r193 79 101 0.0192297
r194 79 85 0.995803
r195 75 100 0.0262372
r196 75 77 0.891851
r197 74 101 0.0262372
r198 74 77 0.545991
r199 72 114 30
r200 68 72 0.821902
r201 68 114 10
r202 66 100 0.0192297
r203 66 72 0.995803
r204 62 99 0.0262372
r205 62 64 0.732522
r206 61 100 0.0262372
r207 61 64 1.22314
r208 59 113 30
r209 55 59 0.821902
r210 55 113 10
r211 53 99 0.0192297
r212 53 59 0.995803
r213 49 98 0.0262372
r214 49 51 0.366261
r215 48 99 0.0262372
r216 48 51 2.00715
r217 46 111 30
r218 42 46 0.821902
r219 42 111 10
r220 40 98 0.0192297
r221 40 46 0.995803
r222 36 97 0.0262372
r223 36 38 0.916138
r224 35 98 0.0262372
r225 35 38 0.975401
r226 33 110 30
r227 29 33 0.821902
r228 29 110 10
r229 27 97 0.0192297
r230 27 33 0.995803
r231 23 96 0.0257718
r232 23 25 0.0446897
r233 22 97 0.0262372
r234 22 25 1.01718
r235 20 109 30
r236 16 20 1.0214
r237 16 109 10
r238 14 96 0.0197616
r239 14 20 1.23752
r240 13 94 0.0257718
r241 12 96 0.0257718
r242 12 13 0.8083
r243 10 108 30
r244 6 10 0.821902
r245 6 108 10
r246 4 94 0.0197616
r247 4 10 0.995803
r248 1 94 30
r249 1 89 30
r250 1 77 30
r251 1 64 10
r252 1 51 15
r253 1 38 10
r254 1 25 15
.ends

.subckt PM_FLIP_FLOP%CLK 6 10 12 14 17 20 22
c30 17 0 9.05947e-20
r31 20 23 8.02248
r32 20 22 7.85588
r33 17 20 25
r34 14 17 1.7
r35 6 12 92.2314
r36 6 23 62.205
r37 3 10 87.1074
r38 3 22 81.7785
.ends

.subckt PM_FLIP_FLOP%D 6 10 12 14 17 20 22
r43 20 23 8.02482
r44 20 22 7.86074
r45 17 20 25
r46 14 17 1.7
r47 6 12 92.2314
r48 6 23 62.205
r49 3 10 87.1074
r50 3 22 81.7785
.ends

.subckt PM_FLIP_FLOP%R 6 14 18 20 22 24 26 27 28 30 31 32 33 36 37 39 41 44 47
+ 52 55 57 60
c167 39 0 1.32469e-19
c168 33 0 5.98877e-20
c169 32 0 3.36144e-20
r170 55 58 8.02482
r171 55 57 7.86074
r172 51 52 1.7
r173 47 51 3.18797
r174 47 48 1.7
r175 44 55 25
r176 41 44 1.7
r177 39 48 0.769135
r178 38 44 3.1584
r179 37 52 1.0084
r180 37 38 0.0487305
r181 36 61 8.02482
r182 36 60 7.86074
r183 35 36 25
r184 33 35 0.0596166
r185 31 33 0.0483595
r186 31 32 1.50346
r187 30 32 0.0479332
r188 29 30 2.43656
r189 27 29 0.0479332
r190 27 28 1.43573
r191 26 39 0.0516758
r192 25 28 0.0479332
r193 25 26 2.22088
r194 14 24 92.2314
r195 14 61 105.656
r196 11 22 87.1074
r197 11 60 38.3273
r198 6 20 92.2314
r199 6 58 62.205
r200 3 18 87.1074
r201 3 57 81.7785
.ends

